US07608629B2
N-[6-(2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-yl]-4-fluoro-benzamide
Combine N-[6-(1-benzyl-2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-yl]-2-chloro-4-fluoro-benzamide (preparation 93, 0.056 g, 0.12 mmol), ethanol (5 mL), 10% palladium/carbon (0.01 g) and ammonium formate (0.064 g, 1.2 mmol), stir and heat to 80° C. After 16 hr., cool to ambient temperature. Filter through celite, rinsing with ethanol. Concentrate filtrate. Dissolve the residue in methanol (10 mL) and load on an SCX column (10 g); wash with methanol (2×50 mL); elute product with 2M ammonia/methanol (2×50 mL). Concentrate the eluent to obtain the title compound (0.042 g, 100%): Mass spectrum (electrospray): m/z=344.2 (M+1); 1H NMR (CDCl3): 8.2 (bs, 1H), 7.9 (m, 3H), 7.7 (m, 1H), 7.2 (m, 2H), 6.5 (d, 1H), 5.2 (m, 1H), 3.1 (m, 1H), 3.0 (m, 1H), 2.1 (m, 1H), 2.0 (dd, 1H), 1.5 (m, 2H), 1.25 (s, 6H).

reactant | N-[6-(1-benzyl-2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-yl]-2-chloro-4-fluoro-benzamide | 0.12 mmol, 0.056 g | C(C1=CC=CC=C1)N1C(CC(CC1)OC1=CC=CC(=N1)NC(C1=C(C=C(C=C1)F)Cl)=O)(C)C | C26H27ClFN3O2
reactant | ammonium formate | 1.2 mmol, 0.064 g | C(=O)[O-].[NH4+]
catalyst | palladium/carbon | 0.01 g | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-[6-(2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-yl]-4-fluoro-benzamide | 0.042 g, 100% | CC1(NCCC(C1)OC1=CC=CC(=N1)NC(C1=CC=C(C=C1)F)=O)C | C19H22FN3O2
